US09427428B2
(S)-2-cyclopentyl-2-(methoxycarbonylamino)acetic acid was synthesized similar to N-methoxycarbonyl-L-Valine, using (S)-2-amino-2-cyclopentylacetic acid instead of L-Valine.

reactant | N-methoxycarbonyl-L-Valine | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | (S)-2-amino-2-cyclopentylacetic acid | N[C@H](C(=O)O)C1CCCC1 | C7H13NO2
product | (S)-2-cyclopentyl-2-(methoxycarbonylamino)acetic acid | C1(CCCC1)[C@@H](C(=O)O)NC(=O)OC | C9H15NO4
